US05025031
3-(2-Methyl-1H-imidazol-1-yl)phenol
A stirred mixture of 3-bromoanisole (100 g, 0.53 mole), 2-methylimidazole (41 g, 0.50 mole), potassium carbonate (96 g, 0.60 mole), cuprous chloride (2.5 g) and N-methyl-2-pyrrolidinone (300 ml) was heated at reflux temperature for 15 hr and then concentrated to remove the solvent and excess 3-bromoanisole. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was concentrated to a black syrup that was then dissolved in toluene and extracted twice with water and then extracted with 48% hydrobromic acid solution. The hydrobromic acid extract was heated at reflux temperature for 7 hr and then distillation of water and methylbromide was begun with addition of additional 48% hydrobromic acid solution as necessary to maintain a reasonable volume. Distillation was continued until the distillation head temperature reached 124° C. The mixture was concentrated under vacuum. The concentrate was diluted with 500 ml of water and basified to pH 8 with addition of potassium carbonate in small portions. The precipitate was collected, washed with water, and dried to give 39.7 g. Recrystallization from 50% aqueous ethanol gave 31.4 g (36%) mp 178°-181° C.

reactant | 3-bromoanisole | 0.53 mole, 100 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | 2-methylimidazole | 0.50 mole, 41 g | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 0.60 mole, 96 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-2-pyrrolidinone | 300 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(2-Methyl-1H-imidazol-1-yl)phenol | CC=1N(C=CN1)C=1C=C(C=CC1)O | C10H10N2O
